US06110914
4'-(Methylamino)spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine]
A solution of 151 mg (0.60 mmol) of 4'-chlorospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] in 25 mL of 40% aqueous methylamine was heated to 175° C. in a steel bomb for 18 hours, then cooled to ambient temperature and concentrated in vacuo. The residue was dissolved in 10 mL of ethanol containing 0.4 mL of concentrated hydrochloric acid and the solution was allowed to stand overnight. After filtering, the solution was concentrated in vacuo and the residue crystallized from isopropanol, giving 147 mg of the title compound as a white solid: electrospray MS (m/z, relative intensity) 246 ([MH]+).

reactant | 4'-chlorospiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 0.60 mmol, 151 mg | ClC1=C2C(=NC=C1)OC1(C2)CN2CCC1CC2 | C13H15ClN2O
reactant | methylamine | 25 mL | CN | CH5N
product | 4'-(Methylamino)spiro[1-azabicyclo[2.2.2]octane-3,2'(3'H)-furo[2,3-b]pyridine] | 147 mg | CNC1=C2C(=NC=C1)OC1(C2)CN2CCC1CC2 | C14H19N3O
